Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal distention
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ gentleman with h/o alcoholic hepatitis and 
cirrhosis,
now c/b ascites, admitted to ___ on ___ with abdominal
distention s/p dx and tx paracentesis, now transferred to ___
for further work up.

In ___, the patient presented to ___ and was
noted to have alcoholic hepatitis on a background of alcoholic
cirrhosis. At that time he was jaundiced with elevated AST to 
ALT
ratio.  He was started on a 3-week course of steroids as an
outpatient with Dr. ___ he has since completed.  He 
was
then seen by Dr. ___ in the outpatient ___ clinic, who
noted that he had some abdominal distention and started him on
spironolactone 50 mg daily.  At that time, his hepatitis
serologies were also noted to be negative, so he received
hepatitis A, hepatitis B, influenza vaccination at his 
outpatient
visit.

Since that time, the patient has noted progressive abdominal
swelling despite adherence to his low-sodium diet and abstinence
from alcohol for the past 2 months.  At the time of presentation
to ___, the patient had significant abdominal swelling
and discomfort secondary to his abdominal swelling.  He noticed
that his skin felt very tight.  Throughout this time, the 
patient
noted that he had dark urine.  His stools have remained brown,
and he denies any pale stools, melena, hematochezia, 
hematemesis.
He notes that his bowel movements occur once a day.  He also
denies any fevers, chills, sick contacts, URI symptoms.  He
reports that his scleral icterus and jaundice have slightly
improved over the past couple months.  He reports that he has
been mentally clear, and denies any prior history of hepatic
encephalopathy, but does note that recently he has had some 
sleep
disturbances and fatigue, sometimes sleeping for many hours at a
time.

At ___, the patient had a large volume paracentesis on
___ with removal of 4.1 L of clear yellow fluid.  Total
white count was 115 with 9% neutrophils, negative for SBP.  He
also had MRCP, HIDA scan, gallbladder imaging, which was largely
unrevealing for an acute biliary process.  After his
paracentesis, he noted that his abdominal pain had largely
resolved, and he attributes his abdominal pain and discomfort to
the large amount of fluid belly.

Upon arrival to the floor, patient reports that he is feeling
well. His abdominal comfort has resolved since his paracentesis.
He denies any other abdominal pain, fevers, chills, confusion. 
No
other complaints.
 
Past Medical History:
-Alcoholic cirrhosis
-Hypertension
-Alcohol use disorder (abstinent since ___
 
Social History:
___
Family History:
Mother: HTN
___ ___, auntx2, uncle with cancers
Father: cancer
No other known history of liver disease
 
Physical Exam:
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. scleral icterus
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, mildly distended, non-tender to
deep palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. No rash.
NEUROLOGIC: AOx3. Ambulating
 
Pertinent Results:
___ 05:25AM BLOOD WBC-7.6 RBC-2.88* Hgb-9.5* Hct-27.8* 
MCV-97 MCH-33.0* MCHC-34.2 RDW-15.0 RDWSD-53.6* Plt ___
___ 05:25AM BLOOD ___ PTT-41.1* ___
___ 05:25AM BLOOD Glucose-85 UreaN-6 Creat-0.9 Na-137 K-5.0 
Cl-104 HCO3-25 AnGap-8*
___ 05:25AM BLOOD ALT-32 AST-111* AlkPhos-126 TotBili-12.6*
___ 08:08AM BLOOD Triglyc-102 HDL-14* CHOL/HD-11.4 
LDLcalc-___ecompensated Cirrhosis
#Ascites
#Resolving alcoholic hepatitis
#Coagulopathy, hyponatremia, hyperbilirubinemia
Patient transferred from ___ after having 4L paracentesis. Began 
lasix 40mg , spironolactone 100mg without recurrence of ascites. 
He underwent ECHO as part of transplant workup. EGD and 
remainder of transplant workup as outpatient. Follow up with 
hepatologist Dr. ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Spironolactone 50 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Pantoprazole 40 mg PO QAM 

 
Discharge Medications:
1.  Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*3 
2.  Spironolactone 100 mg PO DAILY 
RX *spironolactone [Aldactone] 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*3 
3.  Metoprolol Succinate XL 25 mg PO DAILY  
4.  Pantoprazole 40 mg PO QAM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Liver Disease
Ascites 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
- Because you had fluid in your abdomen

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We started you on diuretics to help with the fluid in her 
liver
- We did an ECHO of your heart
- We told Dr. ___ your hospital stay and he will see you 
in his clinic after you leave the hospital 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.

We wish you the best!

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___